US08809333B2
Ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoate
4-Pyrazole boronic acid, 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (800 mg, 4.12 mmol, 1 eq), Cs2CO3 (3.36 g, 10.3 mmol, 2.5 eq) and NaI (124 mg, 0.825 mmol, 0.2 eq) were added to a vial. A solution of ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate (1.54 g, 5.36 mmol, 1.3 eq) in MeCN (10 mL) was added to the vial and the sealed mixture was heated at 50° C. overnight. The reaction mixture was cooled to room temperature and filtered through celite, washing with EtOAc. The crude product mixture was purified by flash chromatography on silica gel (40 g) eluting with 0-100% EtOAc/Hpt to give the desired product ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoate (810 mg, 49% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ 7.78-7.75 (m, 1H), 7.71-7.67 (m, 1H), 4.40-4.05 (m, 4H), 3.05 (s, 3H), 2.85-2.74 (m, 1H), 2.57-2.46 (m, 1H), 1.68 (s, 3H), 1.36-1.17 (m, 15H). LC-MS M+H+401.3.

reactant | 4-Pyrazole boronic acid | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.12 mmol, 800 mg, 1 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Cs2CO3 | 10.3 mmol, 3.36 g, 2.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.825 mmol, 124 mg, 0.2 eq | [Na+].[I-]
reactant | ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 5.36 mmol, 1.54 g, 1.3 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | MeCN | 10 mL | CC#N | C2H3N
product | ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoate | 810 mg, 49% yield | C[C@](C(=O)OCC)(CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C | C17H29BN2O6S
